Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:11].[H:1][C:2]([H:3])[O:4]/[C:5]=[C:6](\[H:7])[O:8][C:9][H:10]>>[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])[O:8][C:9]([H:10])[H:11],-4.01022953757
[H:1][C:2]([H:3])=[C:4]([H:5])/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13].[H:6]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13],-1.60485372095
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13].[H:1][O:2],6.352829414330001
[C:1]([C:2]([H:4])[C:9]([H:10])([H:11])[H:12])([H:6])([H:7])[H:8].[C:3]#[C:5]>>[C:1]#[C:2][C:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-5.13722559611
[H:12].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([C:7]([H:8])=[C:9]([H:10])[H:11])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])=[C:4]([H:5])/[C:6](=[C:7](/[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-3.64982716398
[H:1][C:2]#[C:3][H:4].[O:5]=[C:6][C:7]([H:8])([H:9])[H:10]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[H:10],1.7670807198299998
[C:1]#[C:2][C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]#[C:2][C:3]([O:4][C:5]([H:6])[H:7])[C:9]([H:10])([H:11])[H:12].[H:8],4.348402835869998
[H:1][C:2]([C:3]([H:4])([H:5])[C:6]#[C:7][H:8])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:9]>>[H:1][C:2]([C:3]([H:4])([H:5])[C:6]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-1.97312579002
[C:1]#[C:2][C:3]([H:4])[O:5][C:6]([H:7])[H:8].[C:9]([H:10])([H:11])[H:12]>>[C:1]#[C:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-4.02605360822
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:1].[O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],4.5979032855
[H:1][C:2]#[C:3][O:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]#[C:3].[O:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],4.10012446842
[O:1]=[c:2]1[c:3]([O:4][H:5])[c:6]1[C:7]([H:8])([H:9])[H:10]>>[O:1]=[C:2]([C:3][O:4][H:5])[C:6][C:7]([H:8])([H:9])[H:10],4.13602825324
[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7](=[O:8])[H:9]>>[C:1][C:2][O:3].[C:4]([H:5])([H:6])[C:7](=[O:8])[H:9],0.614529780639
[O:1]=[C:2]=[C:5]([H:6])[C:7]([H:8])([H:9])[H:10].[O:3][H:4]>>[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])[C:7]([H:8])([H:9])[H:10],-4.0994856873000005
[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])[H:10]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-3.67094799185
[C:1]#[C:2][C:7]([H:8])([H:9])[C:10][O:11][H:12].[C:3]([H:4])([H:5])[H:6]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10][O:11][H:12],-3.63148478398
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14]>>[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14].[O:1],4.15618250154
[H:1][C:2]#[C:4][C@:5]([H:6])([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:3]>>[H:1][C:2]([H:3])=[C:4][C@:5]([H:6])([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.94198145666
[C:3]=[C:4]([H:5])[H:6].[O:1]=[C:2][C:7]([H:8])([H:9])[O:10][H:11]>>[O:1][C:2](=[C:3]=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][H:11],-3.4728223096300006
[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:7].[O:1]1[C:2](/[C:5]([H:6])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13])=[C:3]1[H:4],1.49798725586
[H:11].[H:1][C:2][O:3][C:4][O:5][C:6]([H:7])([H:8])[C:9][H:10]>>[H:1][C:2][O:3][C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11],-5.20748460141
[O:1]=[C:2]1[O:3][C@@:4]([H:5])([C:6]([H:7])[H:8])[C:9]1([H:10])[H:11]>>[O:1]=[C:2]([O:3][C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])[H:11],0.0740127952104
[C:1]=[C:2]1[O:8][C:9]1([H:10])[H:11].[C:3]([H:4])([H:5])[O:6][H:7]>>[C:1][C@@:2]1([C:3]([H:4])([H:5])[O:6][H:7])[O:8][C:9]1([H:10])[H:11],-1.7401043774400002
[H:17].[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([C:10]([H:11])([H:12])[H:13])=[C:14]([H:15])[H:16]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-1.93364452777
[H:13].[H:1][O:2][O:3][C@:4]([H:5])([C:6]([H:7])[H:8])[C:9]([H:10])=[C:11][H:12]>>[H:1][O:2][O:3][C@:4]([H:5])([C:6]([H:7])[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-4.99685726843
[C:16]([H:17])([H:18])[H:19].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([C:8]([H:9])([H:10])[H:11])([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19],-1.36616092975
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([C:10]([H:11])[H:12])=[C:13]([H:14])[H:15]>>[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([C:10]([H:11])[H:12])=[C:13]([H:14])[H:15].[H:1][O:2],5.38730659888
[C:2]#[C:3][C:4]([H:5])[O:6][C:7]([H:8])[H:9].[O:1]>>[O:1]=[C:2]=[C:3][C:4]([H:5])[O:6][C:7]([H:8])[H:9],-7.25661814377
